US06825188B2
e) Methyl (±)-8-hydroxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
Anhydrous aluminum chloride (1.35 g, 10.15 mmole) was added all at once to a solution of methyl (±)-8-methoxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (562 mg, 2.03 mmole) and ethanethiol (0.75 mL, 10.15 mmole) in anhydrous CH2Cl2 (20 mL) at 0° C. under argon. The mixture was warmed to RT and stirred for 4.5 hr, then was recooled to 0° C. Ice cold H2O (20 mL) was added, and the mixture was stirred briskly for 5 min, then was extracted with CHCl3 (3×20 mL). The combined CHCl3 layers were dried (MgSO4) and concentrated to leave a residue. The aqueous layer was suction filtered to collect a solid precipitate. This precipitate and the residue from the CHCl3 layer were combined in 1:1 MeOH/CHCl3, and the solution was concentrated to leave an off-white solid. This was triturated with hot MeOH, and the mixture was allowed to cool to RT. The solid was collected by suction filtration and washed sequentially with cold MeOH and Et2O. Drying in high vacuum at 40° C. gave the title compound (467.9 mg, 88%) as a colorless solid: TLC (5% MeOH/CHCl3) Rf 0.17; 1H NMR (250, DMSO-d6) δ 9.29(s, 1 H), 6.89 (d, J=8.1 Hz, 1 H), 6.50-6.70 (m, 2 H), 5.16 (d, J=16.4 Hz, 1 H), 3.84 (d, J=16.4 Hz, 1 H), 3.60-3.85 (m, 1 H), 3.56 (s, 3 H), 2.30-3.00 (m, 4 H), 2.86 (s, 3 H); MS (ES) m/e 286 (M+Na)+, 264 (M+H)+.

reactant | aluminum chloride | 10.15 mmole, 1.35 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methyl (±)-8-methoxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 2.03 mmole, 562 mg | COC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C15H19NO4
reactant | ethanethiol | 10.15 mmole, 0.75 mL | C(C)S | C2H6S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Methyl (±)-8-hydroxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 467.9 mg, 88% | OC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C14H17NO4
